US05807887
To a solution of 2.04 g of diisopropylamine in 30 ml of tetrahydrofuran is dropwise added 9.19 ml of 1.6M n-hexane solution of n-butyllithium at -20° C. At the same temperature, the resulting mixture is stirred for one hour and then cooled to -70° C., at which temperature a solution of 3 g of 3,5-difluorobromobenzene in 10 ml of tetrahydrofuran is dropwise added thereto over 30 minutes. The temperature of the resulting reaction mixture is elevated to -40° C. and then lowered again to -70° C., at which temperature 0.97 ml of methyl iodide is then added thereto. The temperature of the resulting mixture is elevated to room temperature, and 80 ml of water and 80 ml of ethyl acetate are then added thereto, after which the resulting organic layer is separated, washed successively with water and a saturated saline solution and then dried over anhydrous magnesium sulfate. Thereafter, the solvent is removed from the thus dried layer by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluent: hexane:ethyl acetate=10:1], to obtain 1.98 g of colorless, oily 4-bromo-2,6-difluorotoluene.

reactant | diisopropylamine | 2.04 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,5-difluorobromobenzene | 3 g | FC=1C=C(C=C(C1)F)Br | C6H3BrF2
reactant | methyl iodide | 0.97 ml | CI | CH3I
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 80 ml | O | H2O
solvent | n-hexane | 1.6M, 9.19 ml | CCCCCC | C6H14
product | 4-bromo-2,6-difluorotoluene | BrC1=CC(=C(C(=C1)F)C)F | C7H5BrF2
